US07186716B2
N-[3-(1H-Pyrrol-2-yl)-1H-indazol-5-yl]-isonicotinamide
2,2-Dimethyl-propionic acid 5-amino-3-(1H-pyrrol-2-yl)-indazol-1-yl ester (0.38 mmol) was coupled with isonicotinoyl chloride (0.4 mmol) (Aldrich, Milwaukee, Wis.) and triethylamine in DCM at 0° C. to give 120 mg of the titled compound as a light yellow solid.

reactant | 2,2-Dimethyl-propionic acid 5-amino-3-(1H-pyrrol-2-yl)-indazol-1-yl ester | 0.38 mmol | NC=1C=C2C(=NN(C2=CC1)OC(C(C)(C)C)=O)C=1NC=CC1 | C16H18N4O2
reactant | isonicotinoyl chloride | 0.4 mmol | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[3-(1H-Pyrrol-2-yl)-1H-indazol-5-yl]-isonicotinamide | 120 mg | N1C(=CC=C1)C1=NNC2=CC=C(C=C12)NC(C1=CC=NC=C1)=O | C17H13N5O
